US08835449B2
To a solution of tert-butyl 2-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)ethylamino)-2-oxoethylcarbamate (70 mg, 0.15 mmol) in ethyl acetate (2 mL) was added a solution of HCl in ethyl acetate (2 mL). After stirring at room temperature for 4 hours, the reaction mixture was concentrated under reduced pressure to afford the desired 2-amino-N-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)ethyl)acetamide hydrochloride as a solid (65 mg, 100%).

reactant | tert-butyl 2-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)ethylamino)-2-oxoethylcarbamate | 0.15 mmol, 70 mg | COC1=C(C=CC(=C1)OC)C1=CC(NC(N1CCNC(CNC(OC(C)(C)C)=O)=O)=S)=O | C21H28N4O6S
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-N-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)ethyl)acetamide hydrochloride | 65 mg, 100% | Cl.NCC(=O)NCCN1C(NC(C=C1C1=C(C=C(C=C1)OC)OC)=O)=S | InChI=1S/C16H20N4O4S.ClH/c1-23-10-3-4-11(13(7-10)24-2)12-8-14(21)19-16(25)20(12)6-5-18-15(22)9-17;/h3-4,7-8H,5-6,9,17H2,1-2H3,(H,18,22)(H,19,21,25);1H
